US05635477
t-Butyloxycarbonyl-3-aminophenylacetic Acid
A solution of 3-aminophenylacetic acid (Aldrich, 10 g, 66 mmol), di-tert-butyl dicarbonate (15.8 g, 72 mmol), and DIEA (8.6 g, 66 mmol) in 50 ml of dichloromethane was stirred overnight at room temperature. The reaction mixture was concentrated, partitioned between dichloromethane-H2O, the water layer was separated, acidified to pH 3 with 1N HCl, and extracted with dichloromethane. The extracts were washed with H2O, brine, dried over anhydrous sodium sulfate, and evaporated to dryness under reduced pressure. This material was purified by recrystallization from heptane to provide the title compound (3.7 g, 22%) as a white solid. mp 105° C.; 1H NMR (CDCl3) 7.35 (s, 1H), 7.25 (m, 3H), 6.95 (m, 1H), 6.60 (br s, 1H), 3.65 (s, 2H), 1.50 (s, 9H).

reactant | 3-aminophenylacetic acid | 66 mmol, 10 g | NC=1C=C(C=CC1)CC(=O)O | C8H9NO2
reactant | di-tert-butyl dicarbonate | 72 mmol, 15.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIEA | 66 mmol, 8.6 g | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | t-Butyloxycarbonyl-3-aminophenylacetic Acid | 3.7 g, 22% | C(C)(C)(C)OC(=O)C(C(=O)O)C1=CC(=CC=C1)N | C13H17NO4
